US04136247
5-Hexyl-2-Norbornene/1-Hexene Copolymer
50 ml dry toluene cosolvent, 7 ml 5-hexyl-2-norbornene, 0.5 ml 1-hexene solution, and 0.6 ml diethylaluminum iodide solution were charged to a dry, nitrogen-purged 7 oz. bottle. 0.75 ml of the MoCl5 solution was charged last. After about 1 hour the reaction was shortstopped using a mixture of ethanolamine, Solution A and antioxidant solution. The polymer cement was coagulated using excess Solution A in a Waring blender. A solid weighing more than 5 grams was recovered after being filtered and vacuum dried at 60° C. It was a ring-opened 5-hexyl-2-norbornene/1-hexene copolymer having a DSV of about 1.03.

reactant | 5-hexyl-2-norbornene | 7 ml | C(CCCCC)C1C2C=CC(C1)C2 | C13H22
reactant | 1-hexene | 0.5 ml | C=CCCCC | C6H12
reactant | diethylaluminum iodide | 0.6 ml | [I-].C(C)[Al+]CC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Hexyl-2-Norbornene 1-Hexene | C(CCCCC)C1C2C=CC(C1)C2.C=CCCCC | InChI=1S/C13H22.C6H12/c1-2-3-4-5-6-12-9-11-7-8-13(12)10-11;1-3-5-6-4-2/h7-8,11-13H,2-6,9-10H2,1H3;3H,1,4-6H2,2H3
